US07635715B2
Step I: Preparation of N((6-Chloro-1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N((6-chloro-1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (0.160 g, 0.41 mmol) was placed in a 25 mL round bottom flask and TFA (20 mL) was added. The mixture was stirred for 45 minutes. TFA was then removed under vacuum, and DCM was used to azeotrope off the remaining TFA (3×) until the oil turned into a solid. MS m/e=335 (M+H)+. Calculated for C15H11ClN2O5 334.04.

reactant | 1,1-Dimethylethyl N((6-chloro-1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 0.41 mmol, 0.160 g | ClC=1C=C2C(=C(C(C(C2=CC1)(C)C#N)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H19ClN2O5
solvent | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N((6-Chloro-1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | ClC=1C=C2C(=C(C(C(C2=CC1)(C)C#N)=O)C(=O)NCC(=O)O)O | C15H11ClN2O5
